US07572820B2
B. 1-(Cyclopropylmethyl)-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and (bromomethyl)cyclopropane: 1H NMR (400 MHz, CDCl3) δ 7.49 (s, 2H), 6.57 (s, 1H), 4.05 (d, J=6.4 Hz, 2H), 2.76 (t, J=7.6 Hz, 2H), 1.83 (m, 2H), 1.16 (m, 1H), 1.08 (t, J=7.4 Hz, 3H), 0.60 (m, 2H), 0.35 (m, 2H); MS (ES) m/z 307 (M+1).

reactant | 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(CC)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H11F3N2
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | 1-(Cyclopropylmethyl)-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(CC1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CCC | C17H17F3N2
